US04291034
By following the procedure of Example 3, and using 7-chloro-2-methyl-3-[4-(trifluoromethyl)phenyl]-3,4-dihydro-1,9(2H,10H)-acridinedione instead of 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)acridinedione and N,N-dimethyl-1,3-propanediamine instead of N,N-diethylenediamine one obtains 7-chloro-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro2-methyl-3-[4-(trifluoromethyl)phenyl]-9(2H)-acridinone; mp 169°-170° C. after chromatography on silica eluted with chloroform/methanol 7:1.

reactant | 7-chloro-2-methyl-3-[4-(trifluoromethyl)phenyl]-3,4-dihydro-1,9(2H,10H)-acridinedione | ClC1=CC=C2NC=3CC(C(C(C3C(C2=C1)=O)=O)C)C1=CC=C(C=C1)C(F)(F)F | C21H15ClF3NO2
reactant | N,N-dimethyl-1,3-propanediamine | CN(CCCN)C | C5H14N2
product | 7-chloro-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro2-methyl-3-[4-(trifluoromethyl)phenyl]-9(2H)-acridinone | ClC1=CC=C2NC=3CC(C(C(C3C(C2=C1)=O)=NCCCN(C)C)C)C1=CC=C(C=C1)C(F)(F)F | C26H27ClF3N3O
